US04219559
To 1 part of a solution of 2 parts of thiophene in 40 parts of ethanol are added 3.3 parts of 1-(4-fluorophenylmethyl)-N-{1-[2-(4-nitrophenyl)ethyl]-4-piperidinyl}-1H-benzimidazol-2-amine and 120 parts of methanol. The whole is hydrogenated at normal pressure and at room temperature with 2 parts of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is purified by column-chromatography over silica gel using a mixture of methylbenzene and methanol (95:5 by volume) saturated with ammonia, as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 2-propanol, yielding 1.3 parts (42%) of N-{1-[2-(4-aminophenyl)ethyl]-4-piperidinyl}-1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine; mp. 195.4° C.

reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | ethanol | C(C)O | C2H6O
reactant | 1-(4-fluorophenylmethyl)-N-{1-[2-(4-nitrophenyl)ethyl]-4-piperidinyl}-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCC2=CC=C(C=C2)[N+](=O)[O-] | C27H28FN5O2
reactant | hydrogen | [H][H] | H2
catalyst | platinum-on-charcoal | [Pt] | Pt
solvent | methanol | CO | CH4O
product | N-{1-[2-(4-aminophenyl)ethyl]-4-piperidinyl}-1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine | 42% | NC1=CC=C(C=C1)CCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C27H30FN5
